US07468371B2
N-[2-(diethylamino)ethyl]-3-oxo-5-indanecarboxamide
To a solution of Example 26 (100 mg, 0.57 mmol) in N,N-dimethylformamide (2.8 mL) was added 1-hydroxybenzotriazole hydrate (115 mg, 0.85 mmol). The reaction mixture was cooled to 0° C. and N-methyl morpholine (187 μL, 1.7 mmol) and 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (163 mg, 0.85 mmol) were added. The reaction mixture was stirred at about 0° C. for about 15 minutes and then at about 23° C. for about 1 hour before N,N-diethylethylenediamine (88 μL, 0.62 mmol) was added. The reaction mixture was stirred overnight at about 23° C. and was then concentrated under vacuum. The residue was purified by flash chromatography on silica gel using dichloromethane/methanol (20:1) and 0.5% ammonium hydroxide as eluent to provide the desired product. MS (DCI-NH3): m/z 275 (M+H)+.

reactant | 1-hydroxybenzotriazole hydrate | 0.85 mmol, 115 mg | O.ON1N=NC2=C1C=CC=C2
reactant | N-methyl morpholine | 1.7 mmol, 187 μL | CN1CCOCC1 | C5H11NO
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.85 mmol, 163 mg | Cl.CN(CCCN=C=NCC)C
reactant | N,N-diethylethylenediamine | 0.62 mmol, 88 μL | C(C)N(CCN)CC | C6H16N2
solvent | N,N-dimethylformamide | 2.8 mL | CN(C=O)C | C3H7NO
product | N-[2-(diethylamino)ethyl]-3-oxo-5-indanecarboxamide | C(C)N(CCNC(=O)C=1C=C2C(CCC2=CC1)=O)CC | C16H22N2O2
